US07566724B2
In the same manner as in Reference Example 24-(1), 4-iodoaniline (220 mg) and 2-chloro-4,6-dimethoxypyrimidine (200 mg) were reacted in the presence of sodium hydride to obtain N-(4-iodophenyl)-4,6-dimethoxypyrimidin-2-amine (141 mg). (2) In the same manner as in Reference Example 24-(2), sodium hydride (16 mg), N-(4-iodophenyl)-4,6-dimethoxypyrimidin-2-amine (140 mg) and methyl iodide (0.024 ml) were reacted to obtain N-(4-iodophenyl)-4,6-dimethoxy-N-methylpyrimidin-2-amine (118 mg).

reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | N-(4-iodophenyl)-4,6-dimethoxypyrimidin-2-amine | 140 mg | IC1=CC=C(C=C1)NC1=NC(=CC(=N1)OC)OC | C12H12IN3O2
reactant | methyl iodide | 0.024 ml | CI | CH3I
product | N-(4-iodophenyl)-4,6-dimethoxy-N-methylpyrimidin-2-amine | 118 mg | IC1=CC=C(C=C1)N(C1=NC(=CC(=N1)OC)OC)C | C13H14IN3O2
